US07981903B2
A solution of 1-acetyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline (350 mg, 1.40 mmol) in ethyl acetate (20 mL) was taken in a Fischer Porter apparatus and treated with 10% palladium on carbon (100 mg, Aldrich). After rinsing the sides of the flask with ethyl acetate, methanol (30 mL) was added and the mixture was stirred under 60 psi hydrogen pressure for 16 h. The pressure was released, the reaction vessel evacuated, and back-filled with nitrogen twice. The mixture was filtered through celite and the filtrate was concentrated to provide 1-acetyl-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinamine (270 mg, 1.23 mmol, 88%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.74-1.86 (m, 2 H), 2.06-2.13 (m, 3 H), 2.53-2.61 (m, 2 H), 3.56-3.61 (m, 2 H), 3.73 (s, 3 H), 4.55 (bs, 2 H), 6.46-6.91 (m, broadened signals caused by amide rotomers, 2 H).

reactant | 1-acetyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | 1.40 mmol, 350 mg | C(C)(=O)N1CCCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C12H14N2O4
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 1-acetyl-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinamine | 1.23 mmol, 270 mg, 88% | C(C)(=O)N1CCCC2=CC(=C(C=C12)N)OC | C12H16N2O2
